US07067517B2
Methyl-phenyl-carbamic acid 5-(4-trifluoromethyl-benzoylamino)-pyridin-2-yl ester
A solution of N-(6-hydroxy-pyridin-3-yl)-4-trifluoromethyl-benzamide (1.41 g, 5.00 mmol), N-methyl-N-phenylcarbamoyl chloride (0.85 g, 5.00 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.56 g, 5.00 mmol) in dimethylformamide (10 mL) was stirred at room temperature overnight. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane 50:50) yielding the title compound (1.34 g, 64% yield) as a white solid.

reactant | N-(6-hydroxy-pyridin-3-yl)-4-trifluoromethyl-benzamide | 5.00 mmol, 1.41 g | OC1=CC=C(C=N1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C13H9F3N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 5.00 mmol, 0.85 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 5.00 mmol, 0.56 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Methyl-phenyl-carbamic acid 5-(4-trifluoromethyl-benzoylamino)-pyridin-2-yl ester | 1.34 g, 64% yield | FC(C1=CC=C(C(=O)NC=2C=CC(=NC2)OC(N(C2=CC=CC=C2)C)=O)C=C1)(F)F | C21H16F3N3O3
